US06306887B1
C. [1-(5-Formyl-isoxazol3-yl)-3-methyl-butyl]-carbamic acid benzyl ester
A stirred mixture of [1-(5-diethoxymethyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic acid benzyl ester (920 mg, 2.4 mmol), acetone (50 ml) and H2SO4 (10 drops) was heated to reflux. After 35 min. the mixture was cooled to room temperature, neutralized with solid NaHCO3 and concentrated under reduced pressure. The resulting paste was taken up in EtOAc; washed with water and brine; dried over Na2SO4; filtered; and concentrated under reduced pressure to give a light yellow oil. Purification by Flash 40(small) chromatography eluting with 1:3 EtOAc/hexane gave 407 mg of the title compound as a light yellow oil. MS [M+1]+ 317.

reactant | [1-(5-diethoxymethyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic acid benzyl ester | 2.4 mmol, 920 mg | C(C1=CC=CC=C1)OC(NC(CC(C)C)C1=NOC(=C1)C(OCC)OCC)=O | C21H30N2O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | H2SO4 | 10 drops | OS(=O)(=O)O | H2O4S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | [1-(5-Formyl-isoxazol3-yl)-3-methyl-butyl]-carbamic acid benzyl ester | 407 mg | C(C1=CC=CC=C1)OC(NC(CC(C)C)C1=NOC(=C1)C=O)=O | C17H20N2O4
